US06875769B2
4-(1-Ethyl-propoxy)-2,6-dimethyl-8-(2,4,6-trimethyl-phenyl)-8H-pteridin-7-one
To a solution of 6-(1-ethyl-propoxy)-2-methyl-4-N-(2,4,6-trimethyl-phenyl)-pyrimidine-4,5-diamine (100 mg, 0.305 mmol) in 2 ml of ethanol was added pyruvic acid (30 mg, 0.335 mmol) and the resulting mixture was heated at reflux for 1 hour. An additional 60 mg of pyruvic acid was added and the resulting mixture was heated at reflux overnight. The mixture was quenched with water and extracted with chloroform. The organic layer was washed with water and brine, dried over sodium sulfate, filtered and concentrated to give an oil residue. The residue was purified through silica gel column chromatography using hexane to 15% ethyl acetate in hexane as eluent to give the title compound as a yellow solid. 1H NMR (CDCl3) δ 6.99 (s,2H), 5.39(m,1H), 2.61(s,3H), 2.40(s,3H), 2.35(s,3H), 1.88(s,6H), 1.7-1.9(m,4H), 0.99(t,6H)ppm.

reactant | 6-(1-ethyl-propoxy)-2-methyl-4-N-(2,4,6-trimethyl-phenyl)-pyrimidine-4,5-diamine | 0.305 mmol, 100 mg | C(C)C(CC)OC1=C(C(=NC(=N1)C)NC1=C(C=C(C=C1C)C)C)N | C19H28N4O
reactant | pyruvic acid | 0.335 mmol, 30 mg | C(C(=O)C)(=O)O | C3H4O3
reactant | pyruvic acid | 60 mg | C(C(=O)C)(=O)O | C3H4O3
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | 4-(1-Ethyl-propoxy)-2,6-dimethyl-8-(2,4,6-trimethyl-phenyl)-8H-pteridin-7-one | C(C)C(CC)OC1=NC(=NC=2N(C(C(=NC12)C)=O)C1=C(C=C(C=C1C)C)C)C | C22H28N4O2
